US07700633B2
To a solution of (3-benzyloxy-7-bromonaphthalen-2-yl)-carbamic acid tert-butyl ester (38.65 g, 90.2 mmol) in DMF (300 mL) at 0° C. is added NaH (3.79 g, 99.3 mmol). To the solution is added methyl bromoacetate (10.3 mL, 108.2 mmol). The mixture is stirred for 10 min and then quenched with 1 N HCl. The solution is extracted with EtOAc and washed with 1 N HCl (3×) and sat. NaCl. The organic layer is dried over Na2SO4, filtered and concentrated. The residue is recrystallized from EtOAc to afford [(3-benzyloxy-7-bromonaphthalen-2-yl)-tert-butoxycarbony-amino]-acetic acid methyl ester.

reactant | (3-benzyloxy-7-bromonaphthalen-2-yl)-carbamic acid tert-butyl ester | 90.2 mmol, 38.65 g | C(C)(C)(C)OC(NC1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)Br)=O | C22H22BrNO3
reactant | NaH | 99.3 mmol, 3.79 g | [H-].[Na+]
reactant | methyl bromoacetate | 108.2 mmol, 10.3 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | [(3-benzyloxy-7-bromonaphthalen-2-yl)-tert-butoxycarbony-amino]-acetic acid methyl ester | COC(CN(C(=O)OC(C)(C)C)C1=CC2=CC(=CC=C2C=C1OCC1=CC=CC=C1)Br)=O | C25H26BrNO5
